US04098760
4'-Anilino-2,2-dichloroacetanilide
This compound is prepared from 4-aminodiphenylamine (36.8 g) in the same manner as Compound 1, except that dichloroacetyl chloride (29.8 g) is used in place of trichloroacetyl chloride. The product is recrystallized from benzene. The m.p. and chemical analysis are reported in Table I.

reactant | 4-aminodiphenylamine | 36.8 g | C1=CC=C(C=C1)NC2=CC=C(C=C2)N | C12H12N2
reactant | dichloroacetyl chloride | 29.8 g | ClC(C(=O)Cl)Cl | C2HCl3O
product | 4'-Anilino-2,2-dichloroacetanilide | N(C1=CC=CC=C1)C1=CC=C(NC(C(Cl)Cl)=O)C=C1 | C14H12Cl2N2O
